US05912244
Phthalic anhydride (7.4 g) was dissolved in hot acetic acid (50 ml) and a solution of methylhydrazine (2.7 ml) in water (50 ml) was added. The mixture was heated under reflux for 15 minutes and left to cool overnight. The precipitate that formed was filtered off, washed with water and dried under reduced pressure at 65° C. to yield 1,2-dihydro-4-hydroxy-2-methyl-1-oxophthalazine (7.6 g) as a white solid. m.p. 243-244° C.

reactant | Phthalic anhydride | 7.4 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | methylhydrazine | 2.7 ml | CNN | CH6N2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
product | 1,2-dihydro-4-hydroxy-2-methyl-1-oxophthalazine | 7.6 g | OC1=NN(C(C2=CC=CC=C12)=O)C | C9H8N2O2
